US07132436B2
4-Propyl-N-[4-(3-pyridinyl)-1,3-thiazol-2-yl]benzenesulfonamide
The title compound was prepared from 4-(3-pyridyl)-1,3-thiazol-2-amine and 4-n-propylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white-yellow solid (2.3 mg) with purity >90%. MS (pos) m/z 360.2.

reactant | 4-(3-pyridyl)-1,3-thiazol-2-amine | N1=CC(=CC=C1)C=1N=C(SC1)N | C8H7N3S
reactant | 4-n-propylbenzenesulfonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | 4-Propyl-N-[4-(3-pyridinyl)-1,3-thiazol-2-yl]benzenesulfonamide | C(CC)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)C=1C=NC=CC1 | C17H17N3O2S2
